US05478942
4-[(2-Hydroxy-propyl)-amino]-benzonitrile
12.1 g of 4-fluoro-benzonitrile, 7.5 g of 2-hydroxypropylamine and 17.4 ml of N-ethyl-diisopropylamine were heated together to 100° C. for 2.5 hours. The mixture was poured onto 250 ml of water, extracted five times with 50 ml of ethyl acetate and the combined organic phases were evaporated down. The product remaining was purified by column chromatography (silica gel; eluant: ethyl acetate) and crystallised by triturating with a 1:1-mixture of tert.butyl-methylether and petroleum ether.

reactant | 4-fluoro-benzonitrile | 12.1 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 2-hydroxypropylamine | 7.5 g | OC(CN)C | C3H9NO
reactant | N-ethyl-diisopropylamine | 17.4 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | water | 250 ml | O | H2O
product | 4-[(2-Hydroxy-propyl)-amino]-benzonitrile | OC(CNC1=CC=C(C#N)C=C1)C | C10H12N2O
